US06258824B1
6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1H-quinolin-2-one
To [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol (20.95 g, 42.76 mmol) in toluene (150 ml) under an atmosphere of dry N2 was added thionyl chloride (31.19 ml, 427 mmol) dropwise. The reaction mixture was heated at 85° C. for 15 hours. Solvent and the excess thionyl chloride were removed under reduced pressure. The crude chloride was taken up in toluene and concentrated under vacuum. The resulting solid was dissolved in THF (10 ml) and to this solution at −78° C. was bubbled ammonia gas (NH3) for 10 minutes. The reaction mixture was stirred at ambient temperature under an atmosphere of N2 for additional 1.5 hours. After removal of THF, the product mixture was partitioned between CHCl3 and water. The organic layer was washed, dried over MgSO4 and concentrated under vacuum to give the crude product. It was chromatographed on silica gel with CHCl3 then MeOH—CHCl3—NH4OH (2:98:0.1 to 7:93:0.1) as eluents to afford the titled compound (17.89 g, 88% yield).

reactant | [4-(3-chloro-phenyl)-2-methoxy-quinolin-6-yl]-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methanol | 42.76 mmol, 20.95 g | ClC=1C=C(C=CC1)C1=CC(=NC2=CC=C(C=C12)C(O)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl)OC | C26H20Cl2N4O2
reactant | thionyl chloride | 427 mmol, 31.19 ml | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH CHCl3 NH4OH | CO.C(Cl)(Cl)Cl.[NH4+].[OH-]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[Amino-(6-chloro-pyridin-3-yl)-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(3-chloro-phenyl)-1H-quinolin-2-one | 17.89 g, 88% yield | NC(C=1C=C2C(=CC(NC2=CC1)=O)C1=CC(=CC=C1)Cl)(C=1N(C=NC1)C)C=1C=NC(=CC1)Cl | C25H19Cl2N5O
